US07659294B2
Step A: 1,4-Dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate
To a solution of lithium N,N-diisopropylamide (30.6 mmol) in 30 mL of THF at −78° C. was added a solution of 1,4-dioxaspiro[4.5]decan-8-one (4.06 g, 26.0 mmol) in 15 mL of THF dropwise. The resulting mixture was stirred at −78° C. for 25 min, to which a solution of 2-(N,N-bis(trifluoromethylsulfonyl)amino)-5-chloropyridine (12.0 g, 30.5 mmol) in 15 mL of THF was then added dropwise. After stirring at −78° C. for 2.5 h, the reaction was quenched by adding 10 mL of 1 N aqueous solution of NaHCO3. The mixture was partitioned between Et2O (200 mL) and 1 N NaHCO3 (200 mL). The organic layer was separated, dried over MgSO4, and concentrated. Chromatography on a Biotage 40M cartridge using 1:9 v/v EtOAc/hexanes as the eluant afforded 4.62 g (61%) of the title compound.

reactant | lithium N,N-diisopropylamide | 30.6 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 26.0 mmol, 4.06 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | 2-(N,N-bis(trifluoromethylsulfonyl)amino)-5-chloropyridine | 30.5 mmol, 12.0 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1,4-Dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | 4.62 g, 61% | FC(S(=O)(=O)OC1=CCC2(OCCO2)CC1)(F)F | C9H11F3O5S
